US08309718B2
Step 1: tert-butyl 4-(2-cyanovinyl)piperidine-1-carboxylate
To a solution of 1.0 M of potassium tert-butoxide in tetrahydrofuran (24.6 mL) at 0° C. was added dropwise a solution of diethyl cyanomethylphosphonate (4.18 mL, 0.0258 mol) in tetrahydrofuran (31.40 mL). The reaction was warmed to room temperature and then cooled to 0° C. again. To the reaction mixture was added a solution of tert-butyl 4-formylpiperidine-1-carboxylate (5.0 g, 0.023 mol) in tetrahydrofuran (6.28 mL). The reaction was allowed to warm up to room temperature and stirred at room temperature overnight. After being quenched with water, the mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried and evaporated to dryness. The crude mixture was purified on silica gel, eluting with 0 to 50% EtOAc in hexanes, to give the desired product (5.10 g, 92%). LCMS (M+Na) 259.0.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.0258 mol, 4.18 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 0.023 mol, 5.0 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | tetrahydrofuran | 24.6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 31.40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.28 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(2-cyanovinyl)piperidine-1-carboxylate | 5.10 g, 92% | C(#N)C=CC1CCN(CC1)C(=O)OC(C)(C)C | C13H20N2O2
